US07939533B2
b) (2S,4R)-2-(3,5-Bis-trifluoromethyl-phenyl)-N-[6-(4-hydroxy-2-hydroxymethyl-pyrrolidin-1-yl)-4-iodo-pyridin-3-yl]-N-methyl-isobutyramide
To a solution of 8.94 g (19.9 mmol) (2S,4R)-[6-(4-hydroxy-2-hydroxymethyl-pyrrolidin-1-yl)-4-iodo-pyridin-3-yl]-methyl-carbamic acid tert-butyl ester in 85 ml dichloromethane were added 50 ml of a 2 M solution of hydrogen chloride in diethylether at 0° C. The reaction mixture was stirred at room temperature for 22 h and concentrated in vacuo. The residue was re-dissolved in 85 ml dichloromethane and treated with 17 ml (99.4 mmol) N-ethyldiisopropylamine. At 0° C. 19.0 g (59.7 mmol) 2-(3,5-bis-trifluoromethyl-phenyl)-2-methyl-propionyl chloride were added dropwise. The reaction mixture was stirred at room temperature for 4 h and concentrated in vacuo. After addition of 250 ml methanol and 70 ml 3 N potassium hydroxide solution the mixture was stirred at room temperature for 2 h. The mixture was concentrated to remove methanol and extracted with four 750 ml-portions of dichloromethane. The combined organic layers were washed with 500 ml 1 N sodium hydroxide solution and 500 ml brine, dried over sodium sulfate and evaporated. Flash-chromatography gave 11 g (87%) of the title compound as a light yellow foam.

reactant | (2S,4R)-[6-(4-hydroxy-2-hydroxymethyl-pyrrolidin-1-yl)-4-iodo-pyridin-3-yl]-methyl-carbamic acid tert-butyl ester | 19.9 mmol, 8.94 g | C(C)(C)(C)OC(N(C)C=1C=NC(=CC1I)N1[C@@H](C[C@H](C1)O)CO)=O | C16H24IN3O4
reactant | hydrogen chloride | Cl | ClH
reactant | N-ethyldiisopropylamine | 99.4 mmol, 17 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 2-(3,5-bis-trifluoromethyl-phenyl)-2-methyl-propionyl chloride | 59.7 mmol, 19.0 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)Cl)(C)C)(F)F | C12H9ClF6O
solvent | dichloromethane | 85 ml | ClCCl | CH2Cl2
solvent | diethylether | C(C)OCC | C4H10O
product | (2S,4R)-2-(3,5-Bis-trifluoromethyl-phenyl)-N-[6-(4-hydroxy-2-hydroxymethyl-pyrrolidin-1-yl)-4-iodo-pyridin-3-yl]-N-methyl-isobutyramide | 11 g, 87% | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1I)N1[C@@H](C[C@H](C1)O)CO)(C)C)(F)F | C23H24F6IN3O3
